US05190934
A solution of 6.97 g of lithium diisopropylamide in 100 ml of anhydrous tetrahydrofuran is cooled to -78° under an inert atmosphere. With constant stirring, a -78° solution of 10.5 g of ethyl cyclopropylmethyl(methyl)phosphinate in 30 ml of absolute tetrahydrofuran is added over 15-20 minutes via a canula under a positive pressure of inert gas. The resulting pale yellow solution is stirred for 1 hour at -78° and a pre-cooled (-78°) solution of 2.06 g of N-tert.-butoxycarbonyl glycine methyl ester in 20 ml absolute tetrahydrofuran is added over 5-10 minutes via a canula. Chromatographic analysis after 15 minutes stirring at -78° C. indicated the reaction to be complete. At -78° 3.75 ml of glacial acetic acid is added and the mixture allowed to warm to room temperature. The reaction mixture is diluted with dichloromethane and washed with water. Drying of the solvent and removal under reduced pressure affords a pale yellow oil. Removal of the excess starting material by distillation and chromatography of the residue on silica gel gives ethyl 3-(N-tert.-butoxycarbonylamino)-2-oxo-propyl(cyclopropylmethyl)phosphinate as a pale yellow oil; 1H-NMR (CDCl3): δ (ppm)=5.40 (1H, Br t, Exch. D2O, NH), 4.14 (4H, m, CH2OP+CH2N) 3.17 (2H, d, J=17.5 Hz, CH2C=O), 1.93-1.68 (2H, m, PCH2), 1.45 (9H, s, tBu), 1.35 (3H, t, CH3), 0.93 (1H, m, CH), 0.62 (2H, m, CH2), 0.27 (2H, m, CH2).

reactant | lithium diisopropylamide | 6.97 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl cyclopropylmethyl(methyl)phosphinate | 10.5 g | C1(CC1)CP(OCC)(=O)C | C7H15O2P
reactant | N-tert.-butoxycarbonyl glycine methyl ester | 2.06 g | COC(CNC(=O)OC(C)(C)C)=O | C8H15NO4
reactant | acetic acid | 3.75 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 3-(N-tert.-butoxycarbonylamino)-2-oxo-propyl(cyclopropylmethyl)phosphinate | C(C)(C)(C)OC(=O)NCC(CP(OCC)(=O)CC1CC1)=O | C14H26NO5P
